US05019596
Preparation of L-ornithine mercaptoethansulphonate
The mercaptoethansulphonic acid coming out from the column, in aqueous solution, under nitrogen stream and at pH=1, is simultaneously added with the stoichiometrical amount of L-ornithine (0.64 g) freed from the hydrochloride through Kastel A 300 resin, in aqueous solution and under nitrogen stream. The addition is carried out at pH values of between 6 and 7. Upon the salification is completed the pH of the solution must be of between 5 and 6. The solution is concentrated to about dryness giving place to a colorless oil which is hot taken with 10 ml of 99% methanol. A conversion to white crystal takes place and the mixture is filtered and dried in oven under vacuum giving 1.117 g; yield 85%; m.p. 187°-192° C.; the pH in 10% aqueous solution is 4.2 and solubility in water is perfect.

reactant | mercaptoethansulphonic acid | SC(C)S(=O)(=O)O | C2H6O3S2
reactant | L-ornithine | 0.64 g | N[C@@H](CCCN)C(=O)O | C5H12N2O2
reactant | hydrochloride | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | L-ornithine mercaptoethansulphonate | SC(C)S(=O)(=O)O.N[C@@H](CCCN)C(=O)O | InChI=1S/C5H12N2O2.C2H6O3S2/c6-3-1-2-4(7)5(8)9;1-2(6)7(3,4)5/h4H,1-3,6-7H2,(H,8,9);2,6H,1H3,(H,3,4,5)/t4-;/m0./s1
